US06211215B1
In substantially the same manner as in Working Example 109, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 6-bromo-2-chloromethylimidazo[1,2-a]pyridine to give 6-bromo-2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]imidazo[1,2-a]pyridine. The yield was 57%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 103-104° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 6-bromo-2-chloromethylimidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C=C(N2)CCl | C8H6BrClN2
product | 6-bromo-2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]imidazo[1,2-a]pyridine | yield was 57% | BrC=1C=CC=2N(C1)C=C(N2)COC2=CC=C(C=C2)CCCN2C=NC=C2 | C20H19BrN4O
